US05631279
A mixture of 1.5 g of (3aR,4R, SR,7aR)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(2-benzyloxyphenyl)acetyl]perhydro-4,5-isoindolediol and 50 cm3 of ethanol is heated to 60° C. with stirring; 0.5 g of 20% palladium hydroxide on charcoal is added and the reaction mixture is then hydrogenated, with stirring, at a temperature of 60° C. and at atmospheric pressure. After reaction for 45 minutes, the theoretical volume of hydrogen has been absorbed; the reaction mixture is filtered, followed by concentration to dryness under reduced pressure (2.7 kPa). The meringue-like product obtained is purified by crystallization in 10 cm3 of isopropyl ether to give 1.09 g of (3aR,4R,5R,7aR)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(2-hydroxyphenyl)acetyl]perhydro-4,5-isoindolediol, melting at 188° C.

reactant | (3aR,4R, SR,7aR)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(2-benzyloxyphenyl)acetyl]perhydro-4,5-isoindolediol | 1.5 g | C1(=CC=CC=C1)C1(CC([C@]([C@H]2CN(C[C@@H]12)C(CC1=C(C=CC=C1)OCC1=CC=CC=C1)=O)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1 | C42H41NO5
catalyst | palladium hydroxide on charcoal | 0.5 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | (3aR,4R,5R,7aR)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(2-hydroxyphenyl)acetyl]perhydro-4,5-isoindolediol | 1.09 g | C1(=CC=CC=C1)C1(C[C@H]([C@]([C@H]2CN(C[C@@H]12)C(CC1=C(C=CC=C1)O)=O)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1 | C35H35NO5
